parameters sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__voff_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope_spectre=0.0
subckt sky130_fd_pr__special_pfet_01v8_hvt (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_pfet_01v8_hvt (d g s b) m_sky130_fd_pr__special_pfet_01v8_hvt__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_pfet_01v8_hvt__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.01004e-09 + mc_mm_switch * 0 * (4.23e-9 * 0.948 * (sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope / sqrt(l * w * mult))) toxm=4.23e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=-2.2811e-8 lint=-2.935e-9 vth0=1.830266384e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope / sqrt(l * w * mult)) lvth0=-5.393308720e-07 wvth0=-1.345007653e-06 pvth0=2.499965725e-13 k1=-1.747554175e+00 lk1=4.831129388e-07 wk1=9.190472936e-07 pk1=-1.708233205e-13 k2=1.560235661e-01 lk2=-5.417234423e-08 wk2=1.362421986e-08 pk2=-2.532333746e-15 k3=-13.778 k3b=2.0 w0=0.0 dvt0=4.05 dvt1=0.3 dvt2=0.03 dvt0w=-4.254 dvt1w=1147200.0 dvt2w=-0.00896 dsub=6.670698446e+00 ldsub=-1.116811559e-06 wdsub=-2.373756167e-06 pdsub=4.412100587e-13 minv=0.0 voffl=0.0 lpe0=0.0 lpeb=0.0 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 cit=1.0e-5 voff=4.695605026e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__voff_slope / sqrt(l * w * mult)) lvoff=-9.440545467e-07 wvoff=-2.337202950e-06 pvoff=4.344159124e-13 nfactor=-3.699298928e+01 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope / sqrt(l * w * mult)) lnfactor=7.587416682e-06 wnfactor=1.815903255e-05 pnfactor=-3.375219380e-12 eta0=8.182383703e+00 leta0=-1.429783359e-06 weta0=-3.581743085e-06 peta0=6.657385871e-13 etab=4.457253357e-01 letab=-8.284812984e-08 wetab=-2.060455421e-07 petab=3.829768491e-14 u0=-9.592712154e-02 lu0=1.881094018e-08 wu0=4.614461826e-08 pu0=-8.576900196e-15 ua=-1.721190682e-08 lua=2.900431429e-15 wua=7.162379237e-15 pua=-1.331271429e-21 ub=-6.442381324e-18 lub=1.554434755e-24 wub=3.619782649e-24 pub=-6.728090009e-31 uc=-3.828960618e-10 luc=7.121685309e-17 wuc=2.253841722e-16 puc=-4.189215609e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=1.439234038e+06 lvsat=-2.512930872e-01 wvsat=-5.612645236e-01 pvsat=1.043222370e-7 a0=1.797062686e+00 la0=-1.172370724e-07 wa0=9.662013410e-08 pa0=-1.795878433e-14 ags=1.249999985e+00 lags=2.731505688e-15 wags=6.842682865e-15 pags=-1.271849293e-21 a1=0.0 a2=-8.632484378e+00 la2=1.688625294e-06 wa2=3.790768904e-06 pa2=-7.045902162e-13 b0=0.0 b1=0.0 keta=-1.555859553e+00 lketa=2.839425980e-07 wketa=6.847359863e-07 pketa=-1.272718778e-13 dwg=-5.722e-9 dwb=-1.7864e-8 pclm=1.943877222e+00 lpclm=-2.076572915e-07 wpclm=-3.130661704e-08 ppclm=5.818960909e-15 pdiblc1=9.440897930e-02 lpdiblc1=1.735265047e-08 wpdiblc1=1.027953514e-07 ppdiblc1=-1.910657197e-14 pdiblc2=6.230151542e-02 lpdiblc2=-1.033569296e-08 wpdiblc2=-1.866184791e-08 ppdiblc2=3.468677671e-15 pdiblcb=-9.647124730e+00 lpdiblcb=1.751290324e-06 wpdiblcb=5.067553259e-06 ppdiblcb=-9.419061243e-13 drout=9.882548598e-01 ldrout=1.830715458e-09 wdrout=6.956739185e-15 pdrout=-1.293049223e-21 pscbe1=1.285433399e+09 lpscbe1=-9.023335140e+01 wpscbe1=-2.261181578e+02 ppscbe1=4.202858199e-5 pscbe2=1.576995002e-08 lpscbe2=-1.199320176e-15 wpscbe2=-3.377489220e-15 ppscbe2=6.277739214e-22 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=531.92 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=-0.32348 prwg=0.02 wr=1.0 alpha0=1.0e-10 alpha1=1.0e-10 beta0=2.257026038e+01 lbeta0=-2.506465477e-06 wbeta0=-4.577582627e-06 pbeta0=8.508352829e-13 agidl=-1.487813614e-07 lagidl=2.819789816e-14 wagidl=6.770300827e-14 pagidl=-1.258395815e-20 bgidl=1.000000010e+09 lbgidl=-1.901000977e-06 wbgidl=-4.762187958e-06 pbgidl=8.851480484e-13 cgidl=300.0 egidl=0.1 toxref=4.23e-9 dlcig=0.0 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=3.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=6.265e-9 dwc=-3.2175e-8 xpart=0.0 cgso=5.46384e-11 cgdo=5.46384e-11 cgbo=0.0 cgdl=6.920864e-12 cgsl=6.920864e-12 clc=1.0e-7 cle=0.6 cf=1.2e-11 ckappas=0.6 vfbcv=-0.1446893 acde=0.552 moin=14.504 noff=4.0 voffcv=-0.1375 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.88 noia=1.2e+41 noib=2.0e+25 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-6.0e-8 af=1.0 kf=0.0 tnoia=1.5 tnoib=3.5 rnoia=0.577 rnoib=0.37 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=2.17e-5 jsws=8.2e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=12.8 xjbvs=1.0 pbs=0.6587 cjs=0.000672644022 mjs=0.34629 pbsws=0.7418 cjsws=8.60458928e-11 mjsws=0.26859 pbswgs=1.3925 cjswgs=2.299366688e-10 mjswgs=0.70393 tnom=30.0 kt1=6.243816758e-01 lkt1=-2.166317965e-07 wkt1=-5.885999544e-07 pkt1=1.094030735e-13 kt2=1.111362601e+00 lkt2=-2.144374014e-07 wkt2=-5.215966208e-07 pkt2=9.694916391e-14 at=-1.175221209e+04 lat=2.170835433e-02 wat=2.186245303e-01 pat=-4.063574145e-8 ute=-1.785411394e+00 lute=2.528540896e-07 wute=-4.483453608e-15 pute=8.333396195e-22 ua1=-3.768870207e-11 lua1=6.152644615e-17 wua1=-1.177552437e-15 pua1=2.188716715e-22 ub1=4.060735096e-18 lub1=-7.446251629e-25 wub1=-2.104576860e-25 pub1=3.911777010e-32 uc1=-9.759609062e-10 luc1=1.705591272e-16 wuc1=4.864263350e-16 puc1=-9.041206288e-23 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2556 tpb=0.0019551 tcj=0.0012407 tpbsw=0.00014242 tcjsw=0.0 tpbswg=0.0 tcjswg=2.0e-12 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=2.65e-8 lkvth0=0.0 wkvth0=2.5e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=4.5e-8 lku0=0.0 wku0=2.5e-7 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.4 steta0=0.0 type=-1
@end

ends // sky130_fd_pr__special_pfet_01v8_hvt
