parameters sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__voff_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope_spectre=0.0
subckt sky130_fd_pr__special_pfet_01v8_hvt (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_pfet_01v8_hvt (d g s b) m_sky130_fd_pr__special_pfet_01v8_hvt__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_pfet_01v8_hvt__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.384395e-09 + mc_mm_switch * 0 * (4.23e-9 * 1.0365 * (sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope / sqrt(l * w * mult))) toxm=4.23e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=3.1884e-8 lint=-3.23875e-8 vth0=-1.590239467e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope / sqrt(l * w * mult)) lvth0=1.330962758e-07 wvth0=3.079070308e-07 pvth0=-7.536794346e-14 k1=-1.996351050e+00 lk1=6.971179541e-07 wk1=7.075692627e-07 pk1=-1.731952663e-13 k2=-2.704070119e-01 lk2=3.527014180e-08 wk2=2.357592592e-07 pk2=-5.770797268e-14 k3=-13.778 k3b=2.0 w0=0.0 dvt0=4.05 dvt1=0.3 dvt2=0.03 dvt0w=-4.254 dvt1w=1147200.0 dvt2w=-0.00896 dsub=7.046964934e+00 ldsub=-1.562846578e-06 wdsub=-1.827541316e-06 pdsub=4.473364257e-13 minv=0.0 voffl=0.0 lpe0=0.0 lpeb=0.0 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 cit=1.0e-5 voff=-2.108998367e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__voff_slope / sqrt(l * w * mult)) lvoff=4.799823320e-07 wvoff=8.014086043e-07 pvoff=-1.961647911e-13 nfactor=4.301268408e+01 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope / sqrt(l * w * mult)) lnfactor=-1.009054626e-05 wnfactor=-1.492524072e-05 pnfactor=3.653325797e-12 eta0=8.230920372e+00 leta0=-1.894783784e-06 weta0=-2.757563546e-06 peta0=6.749826169e-13 etab=4.497324014e-01 letab=-1.100847784e-07 wetab=-1.586332861e-07 petab=3.882946261e-14 u0=2.685845234e-02 lu0=-6.211325302e-09 wu0=-1.256791649e-08 pu0=3.076311759e-15 ua=-1.029761455e-08 lua=1.852707249e-15 wua=7.021962449e-16 pua=-1.718800859e-22 ub=2.045204657e-17 lub=-4.443703525e-24 wub=-4.348982753e-24 pub=1.064522253e-30 uc=-3.478207221e-10 luc=8.520097923e-17 wuc=1.735219870e-16 puc=-4.247384438e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=9.884931225e+05 lvsat=-2.054536397e-01 wvsat=-1.779330477e-01 pvsat=4.355356176e-8 a0=2.112539359e+00 la0=-2.316120674e-07 wa0=7.438728946e-08 pa0=-1.820814878e-14 ags=1.249999985e+00 lags=3.619858191e-15 wags=5.268141479e-15 pags=-1.289509388e-21 a1=0.0 a2=-9.040480416e+00 la2=2.323643290e-06 wa2=2.918491330e-06 pa2=-7.143737154e-13 b0=0.0 b1=0.0 keta=-1.586701126e+00 lketa=3.814775263e-07 wketa=5.271743253e-07 pketa=-1.290390955e-13 dwg=-5.722e-9 dwb=-1.7864e-8 pclm=2.341101211e+00 lpclm=-3.706975139e-07 wpclm=-2.410278567e-08 ppclm=5.899759362e-15 pdiblc1=1.411659737e-01 lpdiblc1=1.140702322e-08 wpdiblc1=7.914155401e-08 ppdiblc1=-1.937187388e-14 pdiblc2=6.842249906e-02 lpdiblc2=-1.510949337e-08 wpdiblc2=-1.436765013e-08 ppdiblc2=3.516841560e-15 pdiblcb=-9.163561431e+00 lpdiblcb=2.187936374e-06 wpdiblcb=3.901480314e-06 ppdiblcb=-9.549848438e-13 drout=9.845326527e-01 ldrout=3.321999964e-09 wdrout=5.355953903e-15 pdrout=-1.311003750e-21 pscbe1=1.288436647e+09 lpscbe1=-1.195647786e+02 wpscbe1=-1.740870784e+02 ppscbe1=4.261216461e-5 pscbe2=1.551291865e-08 lpscbe2=-1.516487932e-15 wpscbe2=-2.600309662e-15 ppscbe2=6.364907976e-22 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=531.92 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=-0.32348 prwg=0.02 wr=1.0 alpha0=1.0e-10 alpha1=1.0e-10 beta0=2.401315341e+01 lbeta0=-3.653986246e-06 wbeta0=-3.524254723e-06 pbeta0=8.626494497e-13 agidl=-1.520812651e-07 lagidl=3.794197034e-14 wagidl=5.212415942e-14 pagidl=-1.275869112e-20 bgidl=1.000000010e+09 lbgidl=-2.519254684e-06 wbgidl=-3.666381836e-06 pbgidl=8.974385262e-13 cgidl=300.0 egidl=0.1 toxref=4.23e-9 dlcig=0.0 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=3.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=-2.31875e-8 dwc=2.252e-8 xpart=0.0 cgso=6.9684e-11 cgdo=6.9684e-11 cgbo=0.0 cgdl=8.82664e-12 cgsl=8.82664e-12 clc=1.0e-7 cle=0.6 cf=1.2e-11 ckappas=0.6 vfbcv=-0.1446893 acde=0.552 moin=14.504 noff=4.0 voffcv=-0.1375 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.88 noia=1.2e+41 noib=2.0e+25 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-6.0e-8 af=1.0 kf=0.0 tnoia=1.5 tnoib=3.5 rnoia=0.577 rnoib=0.37 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=2.17e-5 jsws=8.2e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=12.8 xjbvs=1.0 pbs=0.6587 cjs=0.000792710451 mjs=0.34629 pbsws=0.7418 cjsws=1.01401195e-10 mjsws=0.26859 pbswgs=1.3925 cjswgs=2.7096997e-10 mjswgs=0.70393 tnom=30.0 kt1=5.950906407e-01 lkt1=-2.781159596e-07 wkt1=-4.531597434e-07 pkt1=1.109221762e-13 kt2=1.131083619e+00 lkt2=-2.872230530e-07 wkt2=-4.015742596e-07 pkt2=9.829533938e-14 at=1.185891568e+05 lat=-3.316250091e-03 wat=1.683177773e-01 pat=-4.119998395e-8 ute=-2.299514599e+00 lute=4.588269676e-07 wute=-3.451785524e-15 pute=8.449108080e-22 ua1=-1.102559745e-09 lua1=3.416789124e-16 wua1=-9.065908965e-16 pua1=2.219107867e-22 ub1=5.406746700e-18 lub1=-1.310078073e-24 wub1=-1.620301706e-25 pub1=3.966093500e-32 uc1=-9.345371040e-10 luc1=2.144723700e-16 wuc1=3.744968574e-16 puc1=-9.166746826e-23 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2556 tpb=0.0019551 tcj=0.0012407 tpbsw=0.00014242 tcjsw=0.0 tpbswg=0.0 tcjswg=2.0e-12 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=2.65e-8 lkvth0=0.0 wkvth0=2.5e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=4.5e-8 lku0=0.0 wku0=2.5e-7 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.4 steta0=0.0 type=-1
@end

ends // sky130_fd_pr__special_pfet_01v8_hvt
